### PR TITLE
[Merged by Bors] - feat(Data/List/Basic): lemma about sums of lists

### PR DESCRIPTION
**Pull request by Paul-Lez**
Co-authored-by: Xavier Genereux <xaviergenereux@hotmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/Basic.lean [hunk 1]
```diff
@@ -890,6 +890,9 @@ theorem length_eq_length_filter_add {l : List (α)} (f : α → Bool) :
   simp_rw [← List.countP_eq_length_filter, l.length_eq_countP_add_countP f, Bool.not_eq_true,
     Bool.decide_eq_false]
 
+theorem filter_nezero_sum (l : List ℕ) : (List.filter (· ≠ 0) l).sum = l.sum := by
```
Comment (YaelDillies) [inline Mathlib/Data/List/Basic.lean]:
```suggestion
theorem sum_filter_ne_zero (l : List ℕ) : (l.filter (· ≠ 0)).sum = l.sum := by
```

Comment (YaelDillies) [inline Mathlib/Data/List/Basic.lean]: Can you generalise to an arbitrary monoid and multiplicativise?

Comment (YaelDillies) [inline Mathlib/Data/List/Basic.lean]:
```suggestion
@[simp]
theorem filter_nezero_sum (l : List ℕ) : (List.filter (· ≠ 0) l).sum = l.sum := by
```

Comment (Paul-Lez) [reply Mathlib/Data/List/Basic.lean]: Done

File: Mathlib/Algebra/BigOperators/Group/List/Basic.lean [hunk 2]
```diff
@@ -216,6 +216,11 @@ theorem mul_prod_eraseIdx {i} (hlen : i < l.length) (hcomm : ∀ a' ∈ l.take i
       hcomm a' (by rwa [take_eraseIdx_eq_take_of_le l i i (Nat.le_refl i)] at a'_mem)),
     insertIdx_eraseIdx_getElem hlen]
 
+@[to_additive (attr := simp)]
+theorem prod_filter_ne_one [DecidablePred (· = (1 : M))] (l : List M) :
+    (l.filter fun x ↦ !decide (x = 1)).prod = l.prod := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/BigOperators/Group/List/Basic.lean]: Is this the simp nf, not
```suggestion
    (l.filter fun x ↦ x != 1).prod = l.prod := by
```
?

File: Mathlib/Algebra/BigOperators/Group/List/Basic.lean [hunk 3]
```diff
@@ -216,6 +216,11 @@ theorem mul_prod_eraseIdx {i} (hlen : i < l.length) (hcomm : ∀ a' ∈ l.take i
       hcomm a' (by rwa [take_eraseIdx_eq_take_of_le l i i (Nat.le_refl i)] at a'_mem)),
     insertIdx_eraseIdx_getElem hlen]
 
+@[to_additive (attr := simp)]
+theorem prod_filter_ne_one [DecidablePred (· = (1 : M))] (l : List M) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/BigOperators/Group/List/Basic.lean]:
```suggestion
theorem prod_filter_bne_one [DecidablePred (· = (1 : M))] (l : List M) :
```
if my other suggestion is right

File: Mathlib/Algebra/BigOperators/Group/List/Basic.lean (hunk 2 above)
Comment (Paul-Lez) [reply Mathlib/Algebra/BigOperators/Group/List/Basic.lean]: Both are simp nf I think (based on testing with `#lint`)! Presumably yours is preferable? (at the cost of adding a `BEq` instance rather than assuming one has a decidable pred)

Comment (YaelDillies) [reply Mathlib/Algebra/BigOperators/Group/List/Basic.lean]: `LawfulBEq` is the right assumption here

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
